US07692011B2
To a stirred solution of 8-isopropoxy-7-morpholin-4-yl-[1,6]naphthyridine (149 mg, 0.545 mmol) in dichloromethane (10 mL) at 0° C. was added BCl3 (1.5 mL of a 1 M solution in dichloromethane). The dark orange solution was left to stir at room temperature for 24 h. MeOH (10 mL) was added and the mixture concentrated. This process was repeated four times. Further washing of the remaining residue with diethyl ether (5 mL×2) provided 7-morpholin-4-yl-[1,6]naphthyridin-8-ol hydrochloride as a dark red solid (quantitative yield).—1H NMR (CD3OD): δ 9.09 (dd, J=1.5 and 5.1, 1H), 9.02 (s, 1H), 8.99 (dd, J=1.5 and 8.2, 1H), 7.79 (dd, J=5.1 and 8.2, 1H), 3.95 (m, 4H), 3.80(m, 4H).

reactant | 8-isopropoxy-7-morpholin-4-yl-[1,6]naphthyridine | 0.545 mmol, 149 mg | C(C)(C)OC=1C(=NC=C2C=CC=NC12)N1CCOCC1 | C15H19N3O2
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
reactant | MeOH | 10 mL | CO | CH4O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 7-morpholin-4-yl-[1,6]naphthyridin-8-ol hydrochloride | quantitative yield | Cl.N1(CCOCC1)C1=NC=C2C=CC=NC2=C1O | InChI=1S/C12H13N3O2.ClH/c16-11-10-9(2-1-3-13-10)8-14-12(11)15-4-6-17-7-5-15;/h1-3,8,16H,4-7H2;1H
